US06399601B1
2-Cyano-6H-thieno[2,3-b]pyrrole-5-carboxylic Acid
2-Formyl-6H-thieno[2,3-b]pyrrole-5-carboxylic acid (Soth, S. et al., Bull. Soc. Chim. Fr., 2511-2515 (1975)) was treated with hydroxylamine hydrochloride according to Procedure G (100° C. for 13 h, 125° C. for 7 h; after cooling to room temperature, concentration gave crude product).

reactant | 2-Formyl-6H-thieno[2,3-b]pyrrole-5-carboxylic acid | C(=O)C1=CC2=C(NC(=C2)C(=O)O)S1 | C8H5NO3S
reactant | hydroxylamine hydrochloride | Cl.NO
product | 2-Cyano-6H-thieno[2,3-b]pyrrole-5-carboxylic Acid | C(#N)C1=CC2=C(NC(=C2)C(=O)O)S1 | C8H4N2O2S
